US09120749B2
tert-Butyl 4-{[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]methyl}piperidine-1-carboxylate
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (500 mg, 1.60 mmol) was reacted with tert-butyl 4-(aminomethyl)piperidine-1-carboxylate (516 mg, 2.41 mmol) to afford the desired product (80 mg, >99%) as an orange foam: ESI MS m/z 489 [C24H30BrN3O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.60 mmol, 500 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate | 2.41 mmol, 516 mg | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
product | tert-Butyl 4-{[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]methyl}piperidine-1-carboxylate | 80 mg, >99% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C24H30BrN3O3
